US07572801B2
7-Fluoro-2-[2-(2-fluoro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one
The title compound was synthesized in analogy to example 85 using 2,6-difluoropyridine-3-carboxylic acid and 2-[2-(2-fluorophenyl)-ethoxy]-acetamidine to give 7-fluoro-2-[2-(2-fluorophenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one as the desired product (80%) as a white solid. MS: m/e=318.2 [M+H+].

reactant | 2,6-difluoropyridine-3-carboxylic acid | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
reactant | 2-[2-(2-fluorophenyl)-ethoxy]-acetamidine | FC1=C(C=CC=C1)CCOCC(=N)N | C10H13FN2O
product | 7-Fluoro-2-[2-(2-fluoro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one | 80% | FC=1C=CC2=C(N=C(NC2=O)COCCC2=C(C=CC=C2)F)N1 | C16H13F2N3O2
